US09302996B2
In tetrahydrofuran (40 mL) was dissolved methyl 3-(4-bromophenoxy)-2,2-dimethylpropanoate (3.2 g), 2N aqueous sodium hydroxide solution (10 mL) was added to the solution, and the mixture was stirred at room temperature overnight. After adding methanol (10 mL) to the mixture, the resulting mixture was refluxed for 3 hours. To the residue obtained by concentrating the reaction mixture under reduced pressure were added ethyl acetate and 1N hydrochloric acid, and the liquids were separated. The organic layer was separated, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 3-(4-bromophenoxy)-2,2-dimethylpropanoic acid (2.886 g).

reactant | methyl 3-(4-bromophenoxy)-2,2-dimethylpropanoate | 3.2 g | BrC1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C12H15BrO3
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-(4-bromophenoxy)-2,2-dimethylpropanoic acid | 2.886 g | BrC1=CC=C(OCC(C(=O)O)(C)C)C=C1 | C11H13BrO3
